2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   -          ~8pm, decrease in mental status, stat head CT, labs, consult
   NSurg. No change, mental status cleared.  PIV 16 gauge placed
   Denies headache or pain in single word answers.
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   CXR: ? New LLL Consolidation
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma
   3) ESRD: Continue dialysis scheduled as above
   - Renal consult
   4) Hyperkalemia: Likely from her renal failure and limited dialysis the
   week prior.  Also per her sister there was some possible dietary
   indiscretion in prepartion for her scheduled line replacement today.
   Currently 5.8 down from 6.7 in ED.
   - Hemodialysis today in ICU
   - Renal following
   - Replete lytes prn
   - EKG on arrival to unit
   - Continue Sevelamer & Cincalcet
   Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   5) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   -          ~8pm, decrease in mental status, stat head CT, labs, consult
   NSurg. No change, mental status cleared.  PIV 16 gauge placed
   Denies headache or pain in single word answers.
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   CXR: ? New LLL Consolidation
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma, untreated thyrotoxicosis given
   held methimazole, and pneumonia from poorly cleared secretions.
   - Contact Renal re: line removal/replacement & accessing the line for
   blood cultures
   - Tylenol PRN
   - Restart Methimazole
   - CXR in AM
   3) ESRD: Continue dialysis scheduled as above
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   - Tuesday, Thursday, Saturday HD
   4) Hyperkalemia: Resolved after dialysis.  Will monitor.
   5) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # Access:  Will discuss with renal
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of resident
s history and physical exam. Plan
   as outlined by Dr. [**Last Name (STitle) 4777**].  Mental status has fluctuated overnight
   and today but CT shows no progression.  BP remains in good control. K+
   responded to HD. Low grade fever today
 no obvious source but have
   cultured fully. We are holding abx. At risk for aspiration but CXR
   clear. Possibly central.
   Time spent
 45 min
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2114-1-24**] 18:41 ------

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   -          ~8pm, decrease in mental status, stat head CT, labs, consult
   NSurg. No change, mental status cleared.  PIV 16 gauge placed
   Denies headache or pain in single word answers.
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   CXR: ? New LLL Consolidation
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma, untreated thyrotoxicosis given
   held methimazole, and pneumonia from poorly cleared secretions.
   - Contact Renal re: line removal/replacement & accessing the line for
   blood cultures
   - Tylenol PRN
   - Restart Methimazole
   - CXR in AM
   3) ESRD: Continue dialysis scheduled as above
   - Renal consult
   4) Hyperkalemia: Likely from her renal failure and limited dialysis the
   week prior.  Also per her sister there was some possible dietary
   indiscretion in prepartion for her scheduled line replacement today.
   Currently 5.8 down from 6.7 in ED.
   - Hemodialysis today in ICU
   - Renal following
   - Replete lytes prn
   - EKG on arrival to unit
   - Continue Sevelamer & Cincalcet
   Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   5) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   -          ~8pm, decrease in mental status, stat head CT, labs, consult
   NSurg. No change, mental status cleared.  PIV 16 gauge placed
   Denies headache or pain in single word answers.
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   CXR: ? New LLL Consolidation
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma, untreated thyrotoxicosis given
   held methimazole, and pneumonia from poorly cleared secretions.
   - Contact Renal re: line removal/replacement & accessing the line for
   blood cultures
   - Tylenol PRN
   - Restart Methimazole
   - CXR in AM
   3) ESRD: Continue dialysis scheduled as above
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   - Tuesday, Thursday, Saturday HD
   4) Hyperkalemia: Resolved after dialysis.  Will monitor.
   5) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   #
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   -          ~8pm, decrease in mental status, stat head CT, labs, consult
   NSurg. No change, mental status cleared.  PIV 16 gauge placed
   Denies headache or pain in single word answers.
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   CXR: ? New LLL Consolidation
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma, untreated thyrotoxicosis given
   held methimazole, and pneumonia from poorly cleared secretions.
   - Contact Renal re: line removal/replacement & accessing the line for
   blood cultures
   - Tylenol PRN
   - Restart Methimazole
   - CXR in AM
   3) ESRD: Continue dialysis scheduled as above
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   - Tuesday, Thursday, Saturday HD
   4) Hyperkalemia: Resolved after dialysis.  Will monitor.
   5) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # Access:  Will discuss with renal
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   Microbiology: BCx Pending
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on 2L
   HEENT: PERRL, EOMi, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Hyperkalemia: Likely from her renal failure and limited dialysis the
   week prior.  Also per her sister there was some possible dietary
   indiscretion in prepartion for her scheduled line replacement today.
   Currently 5.8 down from 6.7 in ED.
   - Hemodialysis today in ICU
   - Renal following
   - Replete lytes prn
   - EKG on arrival to unit
   - Continue Sevelamer & Cincalcet
   2) Hematomas: Patient has hematomas etiology uncertain.  No fall or
   syncopal history.  Could be uremia + hypertension.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT @ 9:30pm (12hours post original)
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg IV TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   3) ESRD: Continue dialysis scheduled as above
   - Renal consult
   4) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   5) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-24 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2114-1-23**] 03:54 PM
 EKG - At [**2114-1-24**] 02:31 AM
   - ~8pm, decrease in mental status, stat head CT, labs, consult NSurg.
   No change, mental status cleared.  PIV 16 gauge placed
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.5
   HR: 75 (50 - 75) bpm
   BP: 145/54(79) {113/47(66) - 161/90(100)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                     50 mL
                                                                    150 mL
   PO:
                  150 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Somnolent, breathing comfortably on 2L
   HEENT: PERRL, EOMi, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   186 K/uL
   10.1 g/dL
   134 mg/dL
   5.0 mg/dL
   27 mEq/L
   4.4 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   30.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
   WBC
   11.9
   Hct
   30.4
   Plt
   186
   Cr
   4.3
   5.0
   Glucose
   188
   134
   Other labs: PT / PTT / INR:13.7/23.3/1.2, Ca++:9.0 mg/dL, Mg++:1.7
   mg/dL, PO4:5.7 mg/dL
   Imaging: Head CT [**2113-1-22**] 8:24pm Acute on subacute or chronic subdural
   hematomas are somewhat changed in
   configuration. However, the overall size of hemorrhage bilaterally is
   either
   only somewhat slightly increased or stable in size. No new site of
   hemorrhage
   identified.
   Microbiology: BCx Pending
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Hyperkalemia: Likely from her renal failure and limited dialysis the
   week prior.  Also per her sister there was some possible dietary
   indiscretion in prepartion for her scheduled line replacement today.
   Currently 5.8 down from 6.7 in ED.
   - Hemodialysis today in ICU
   - Renal following
   - Replete lytes prn
   - EKG on arrival to unit
   - Continue Sevelamer & Cincalcet
   2) Hematomas: Patient has hematomas etiology uncertain.  No fall or
   syncopal history.  Could be uremia + hypertension.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT @ 9:30pm (12hours post original)
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg IV TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   3) ESRD: Continue dialysis scheduled as above
   - Renal consult
   4) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   5) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2114-1-23**] 03:54 PM
   16 Gauge - [**2114-1-23**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-25 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2114-1-24**] 03:56 PM
 DIALYSIS CATHETER - START [**2114-1-24**] 03:57 PM
 FEVER - 101.3
F - [**2114-1-24**] 08:00 AM
   [**2114-1-24**] Events:
   - [**Name (NI) 434**] sister arrived and according to the nurses, the patient was
   having a lucid conversation with her sister.  The sister told the staff
   that the pt becomes nervous when alone and does not talk.  The patient
   did not respond more than one word answers.
   - Head CT showed no change of subdural hematomas
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 74 (62 - 75) bpm
   BP: 132/62(79) {103/45(61) - 148/82(95)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                    530 mL
                                                                     50 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   9.8 g/dL
   144 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.6 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
                             [**2114-1-24**]  01:39 PM
                             [**2114-1-25**]  12:07 AM
   WBC
   11.9
   6.8
   4.8
   Hct
   30.4
   29.0
   29.7
   Plt
   186
   194
   187
   Cr
   4.3
   5.0
   6.1
   6.6
   Glucose
   188
   134
   133
   144
   Other labs: PT / PTT / INR:13.8/23.0/1.2, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
 SUBDURAL HEMORRHAGE (SDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2114-1-23**] 11:25 PM
   Dialysis Catheter - [**2114-1-24**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-25 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2114-1-24**] 03:56 PM
 DIALYSIS CATHETER - START [**2114-1-24**] 03:57 PM
 FEVER - 101.3
F - [**2114-1-24**] 08:00 AM
   [**2114-1-24**] Events:
   - [**Name (NI) 434**] sister arrived and according to the nurses, the patient was
   having a lucid conversation with her sister.  The sister told the staff
   that the pt becomes nervous when alone and does not talk.  The patient
   did not respond more than one word answers.
   - Head CT showed no change of subdural hematomas
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 74 (62 - 75) bpm
   BP: 132/62(79) {103/45(61) - 148/82(95)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                    530 mL
                                                                     50 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: Somnolent, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to few word answers, CNII-XII intact,
   moves all extremities, Slow finger to nose, possible poor cooperation
   Labs / Radiology
   187 K/uL
   9.8 g/dL
   144 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.6 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
                             [**2114-1-24**]  01:39 PM
                             [**2114-1-25**]  12:07 AM
   WBC
   11.9
   6.8
   4.8
   Hct
   30.4
   29.0
   29.7
   Plt
   186
   194
   187
   Cr
   4.3
   5.0
   6.1
   6.6
   Glucose
   188
   134
   133
   144
   Other labs: PT / PTT / INR:13.8/23.0/1.2, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.  On admission she appears somnolent but oriented
   and able to defend her airway.
   1) Altered mental status:  Likely secondary to subdural hematomas given
   that she is corrected post-dialysis.  Her mental status appears to be
   diminished this AM in comparison to the prior night.  Etiology of
   bleeds remains unclear.
   - Appreciate Neurosurgical reccomendations
   - Repeat Head CT STAT this AM
   - q1 hour neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID starting in AM with levels
   daily.
   - Hold ASA, anticoagulation
   2) Fever: The patient has a low grade fever today.  Possible sources
   include a line infection in her recently clotted dialysis catheter,
   central fever from subdural hematoma, untreated thyrotoxicosis given
   held methimazole, and pneumonia from poorly cleared secretions.
   - Contact Renal re: line removal/replacement & accessing the line for
   blood cultures
   - Tylenol PRN
   - Restart Methimazole
   - CXR in AM
   3) ESRD: Continue dialysis scheduled as above
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   - Tuesday, Thursday, Saturday HD
   4) Hyperkalemia: Resolved after dialysis.  Will monitor.
   5) Diabetes Mellitus:
   - Hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # Access:  Will discuss with renal
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: ICU
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
 SUBDURAL HEMORRHAGE (SDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2114-1-23**] 11:25 PM
   Dialysis Catheter - [**2114-1-24**] 03:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2114-01-25 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2114-1-24**] 03:56 PM
 DIALYSIS CATHETER - START [**2114-1-24**] 03:57 PM
 FEVER - 101.3
F - [**2114-1-24**] 08:00 AM
   [**2114-1-24**] Events:
   - [**Name (NI) 434**] sister arrived and according to the nurses, the patient was
   having a lucid conversation with her sister.  The sister told the staff
   that the pt becomes nervous when alone and does not talk.  The patient
   did not respond more than one word answers.
   - Head CT showed no change of subdural hematomas
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 74 (62 - 75) bpm
   BP: 132/62(79) {103/45(61) - 148/82(95)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                    530 mL
                                                                     50 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: alert, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to short answers, CNII-XII intact, moves
   all extremities, possible poor cooperation
   Labs / Radiology
   187 K/uL
   9.8 g/dL
   144 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.6 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
                             [**2114-1-24**]  01:39 PM
                             [**2114-1-25**]  12:07 AM
   WBC
   11.9
   6.8
   4.8
   Hct
   30.4
   29.0
   29.7
   Plt
   186
   194
   187
   Cr
   4.3
   5.0
   6.1
   6.6
   Glucose
   188
   134
   133
   144
   Other labs: PT / PTT / INR:13.8/23.0/1.2, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.
   1) Altered mental status:  Likely chronic subdural hematomas and
   bacteremia contributing however patient
s sister believes she is close
   to her baseline today without intervention.
   - Appreciate Neurosurgical recommendations of no acute intervention
   - q4h neuro checks as pt is stable
   - Control BP with labetalol IV & PO
   - Dilantin load complete, continue 100mg PO TID.
   - Hold ASA, anticoagulation
   2) Fever/Positive blood culture:  The patient was febrile up to 101.3
   overnight and has GPC in pairs and clusters on blood cultures.
   Possible source of infection is recently clotted dialysis line.
   -  Likely line will have to be replaced, will discuss with renal today
   about placing temporary line
   - Will start empiric therapy with vancomycin per HD protocol
   - follow specificities and sensitivities
   .
   3) ESRD: Continue dialysis as scheduled on T, Th, and Sat
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   .
   4) Hyperkalemia: Resolved after dialysis, continues to be stable
   today.  Will monitor daily.
   .
   5) Diabetes Mellitus:
   - Continue to hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # Access:  PIVs only now that pt has positive BCx
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: likely transfer to floor today
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
 SUBDURAL HEMORRHAGE (SDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:  HD line, PIV
   16 Gauge - [**2114-1-23**] 11:25 PM
   Dialysis Catheter - [**2114-1-24**] 03:57 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  likely will be able to be transfered to the floor today

2114-01-25 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2114-1-24**] 03:56 PM
 DIALYSIS CATHETER - START [**2114-1-24**] 03:57 PM
 FEVER - 101.3
F - [**2114-1-24**] 08:00 AM
   [**2114-1-24**] Events:
   - [**Name (NI) 434**] sister arrived and according to the nurses, the patient was
   having a lucid conversation with her sister.  The sister told the staff
   that the pt becomes nervous when alone and does not talk.  The patient
   did not respond more than one word answers.
   - Head CT showed no change of subdural hematomas
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-1-25**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.6
   HR: 74 (62 - 75) bpm
   BP: 132/62(79) {103/45(61) - 148/82(95)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
                  Total In:
                                                                    530 mL
                                                                     50 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General: alert, breathing comfortably on RA
   HEENT: PERRL, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: RRR, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB, Dialysis cath in R anterior chest
   Abdomen: +BS, soft, nontender, nondistended, no HSM
   Extremities: warm, 1+ DP pulses, no edema
   Neuro: A&Ox3, speech limited to short answers, CNII-XII intact, moves
   all extremities, possible poor cooperation
   Labs / Radiology
   187 K/uL
   9.8 g/dL
   144 mg/dL
   6.6 mg/dL
   28 mEq/L
   4.6 mEq/L
   39 mg/dL
   100 mEq/L
   143 mEq/L
   29.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2114-1-23**]  08:51 PM
                             [**2114-1-24**]  02:23 AM
                             [**2114-1-24**]  01:39 PM
                             [**2114-1-25**]  12:07 AM
   WBC
   11.9
   6.8
   4.8
   Hct
   30.4
   29.0
   29.7
   Plt
   186
   194
   187
   Cr
   4.3
   5.0
   6.1
   6.6
   Glucose
   188
   134
   133
   144
   Other labs: PT / PTT / INR:13.8/23.0/1.2, Ca++:8.6 mg/dL, Mg++:2.5
   mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   An 80 year old lady with DM, ESRD and history of subdural hematomas
   presents with new acute/subacute hematomas and hyperkalemia with
   altered mental status.
   1) Altered mental status:  Likely chronic subdural hematomas and
   questionable bacteremia contributing however patient
s sister believes
   she is close to her baseline today without intervention.
   - Appreciate Neurosurgical reccomendations of no acute intervention
   - frequent neuro checks
   - Control BP with labetalol IV & PO
   - Dilantin load complete- 100mg PO TID today.
   - Hold ASA, anticoagulation
   2) Fever/Positive blood culture:  The patient was febrile up to 101.3
   overnight and has GPC in pairs and clusters on blood cultures.
   Possible source of infection is recently clotted dialysis line.
   -  Likely line will have to be replaced, will discuss with renal
   - Will start empiric therapy with vancomycin
   - follow sensitivities
   .
   3) ESRD: Continue dialysis as scheduled on T, Th, and Sat
   - Renal following
   - Replete lytes prn
   - Continue Sevelamer & Cincalcet
   .
   4) Hyperkalemia: Resolved after dialysis, continues to be stable
   today.  Will monitor daily.
   .
   5) Diabetes Mellitus:
   - Continue to hold Starlix
   - Lantus + RISS
   6) Toxic multinodular goiter: Continue Methimazole 15mg home dose
   6) Hyperlipidemia:  Continue atorvastatin
   # Access:  PIVs only now that pt has positive BCx
   # FEN: replete 'lytes prn
   # PPX: Teds/SCD, bowel regimen
   # Code: FULL (confirmed)
   # Dispo: likely transfer to floor today
   # Communication: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
 SUBDURAL HEMORRHAGE (SDH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:  HD line, PIV
   16 Gauge - [**2114-1-23**] 11:25 PM
   Dialysis Catheter - [**2114-1-24**] 03:57 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  likely will be able to be transfered to the floor today